US07645756B2
2.09 ml (15.0 mmol) of triethylamine and 1.23 ml (11.0 mmol) of ethyloxalyl chloride were added to a dioxane solution (20 ml) of 2.16 g (10.0 mmol) of 3-hydrazino-6-(4-methoxyphenyl)pyridazine, obtained according to the method described in Journal of Medicinal Chemistry, Vol. 30, pp. 239-249 (1987), and the reaction liquid was stirred at 60° C. for 4 hours. The reaction liquid was concentrated under reduced pressure, and acetic acid (10 ml) was added to the resulting residue and stirred at 120° C. for 2 hours. The reaction liquid was concentrated under reduced pressure, and the resulting residue was purified through silica gel column chromatography (hexane/ethyl acetate=1/4) to obtain 615 mg (yield: 21%) of ethyl 6-(4-methoxyphenyl)[1,2,4]triazolo[4,3-b]pyridazine-3-carboxylate.

reactant | triethylamine | 15.0 mmol, 2.09 ml | C(C)N(CC)CC | C6H15N
reactant | ethyloxalyl chloride | 11.0 mmol, 1.23 ml | CCC(=O)C(=O)Cl | C4H5ClO2
reactant | 3-hydrazino-6-(4-methoxyphenyl)pyridazine | 10.0 mmol, 2.16 g | N(N)C=1N=NC(=CC1)C1=CC=C(C=C1)OC | C11H12N4O
reactant | dioxane | 20 ml | O1CCOCC1 | C4H8O2
product | ethyl 6-(4-methoxyphenyl)[1,2,4]triazolo[4,3-b]pyridazine-3-carboxylate | 615 mg, yield: 21% | COC1=CC=C(C=C1)C=1C=CC=2N(N1)C(=NN2)C(=O)OCC | C15H14N4O3
